US08030354B2
To a solution of methyl methoxyacetate (available from Aldrich) (0.48 mL, 4.8 mmol) in ether (20.0 mL) was added a 1.0 M solution of (3-(benzyloxy)phenyl)magnesium bromide in THF (available from Aldrich) (5.0 mL, 5.0 mmol) dropwise at −78° C. The mixture was warmed to room temperature overnight, quenched with 1 N HCl, and diluted with EtOAc. The organics were washed with water and brine, dried (MgSO4), and concentrated. The crude product was purified by silica gel flash chromatography (0-20% EtOAc/hexane) to afford 1-(3-(benzyloxy)phenyl)-2-methoxyethanone (0.17 g, 14%) as a pale yellow oil.

reactant | methyl methoxyacetate | 4.8 mmol, 0.48 mL | COCC(=O)OC | C4H8O3
reactant | (3-(benzyloxy)phenyl)magnesium bromide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)[Mg]Br
reactant | THF | 5.0 mmol, 5.0 mL | C1CCOC1 | C4H8O
solvent | ether | 20.0 mL | CCOCC | C4H10O
product | 1-(3-(benzyloxy)phenyl)-2-methoxyethanone | 0.17 g, 14% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(COC)=O | C16H16O3
